US06890935B2
(2S)-N-(tert-Butoxycarbonyl)-2-(hydroxymethyl)pyrrolidine
Under a nitrogen atmosphere, an ice-cold stirring solution of (2S)-2-pyrrolidinemethanol (3.00 g, 29.7 mmol, Aldrich Chemical Company), triethylamine (4.3 mL, 3.12 g, 30.9 mmol) in dry dichloromethane (50 mL) was treated in portions over 10 min with di-tert-butyl dicarbonate (7.11 g, 32.6 mmol). The solution was stirred and allowed to warm to ambient temperature overnight. Saturated aqueous NaHCO3 solution (25 mL) was added, and the mixture was extracted with CHCl3 (3×50 mL). The combined extracts were dried (K2CO3), filtered and concentrated under vacuum producing 5.50 g (92.1%) of a thick, colorless syrup.

reactant | (2S)-2-pyrrolidinemethanol | 29.7 mmol, 3.00 g | N1[C@@H](CCC1)CO | C5H11NO
reactant | triethylamine | 30.9 mmol, 4.3 mL, 3.12 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 32.6 mmol, 7.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2S)-N-(tert-Butoxycarbonyl)-2-(hydroxymethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
